US03954757
A solution of 12.7 g of iodine and 20 g of potassium iodide in 100 ml water is added dropwise to a mixture of 7.25 g of 1,2-dimethylindole in 30 ml of methanol and 5.8 g of 1,4,5,6-tetrahydro-2-pyrimidinethiol in 120 ml of warm methanol. The reaction mixture is stirred for 2 hours at room temperature. The crystalline precipitate formed was filtered and recrystallized from a mixture of methanol and ethyl acetate to yield 1,2-dimethyl-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide which melts at 246° (with decomposition).

reactant | iodine | 12.7 g | II | I2
reactant | potassium iodide | 20 g | [I-].[K+]
reactant | 1,2-dimethylindole | 7.25 g | CN1C(=CC2=CC=CC=C12)C | C10H11N
reactant | 1,4,5,6-tetrahydro-2-pyrimidinethiol | 5.8 g | N1C(=NCCC1)S | C4H8N2S
solvent | water | 100 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 120 ml | CO | CH4O
product | 1,2-dimethyl-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide | I.CN1C(=C(C2=CC=CC=C12)SC=1NCCCN1)C | InChI=1S/C14H17N3S.HI/c1-10-13(18-14-15-8-5-9-16-14)11-6-3-4-7-12(11)17(10)2;/h3-4,6-7H,5,8-9H2,1-2H3,(H,15,16);1H
